US07714185B2
To produce transgenic oilseed rape plants binary vectors in Agrobacterium tumefaciens C58C1:pGV2260 or Escherichia coli were used (Deblaere et al, 1984, Nucl. Acids. Res. 13, 4777-4788). For transforming oilseed rape plants (var. Drakkar, NPZ Nordeutsche Pflanzenzucht, Hohenlieth, Germany) a 1:50 dilution of an overnight culture of a positively transformed agrobacteria colony in Murashige-Skoog medium (Murashige and Skoog 19862 Physiol. Plant. 15, 473) containing 3% of saccharose (3MS medium) was used. Petioles or hypocotyledons of freshly germinated sterile rape plants (approx 1 cm2 each) were incubated in a Petri dish with a 1:50 agrobacteria dilution for 5-10 minutes. This was followed by 3-day concubation in darkness at 25° C. on 3MS medium containing 0.8% of Bacto-Agar. After three days, culturing was continued with 16 hours of light/8 hours of darkness and in a weekly cycle on MS medium containing 500 mg/l of Claforan (sodium cefotaxime), 50 mg/l of kanamycin, 20 microM of benzylaminopurine (BAP) and 1.6 g/l of glucose. Growing shoots were transferred onto MS medium containing 2% of saccharose, 250 mg/l of Claforan and 0.8% of Bacto-Agar. If after three weeks no roots had formed 2-indolylbutyric acid was added to the medium as a growth hormone for rooting purposes.

reactant | saccharose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | Claforan | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)/C(=N\OC)/C3=CSC(=N3)N)SC1)C(=O)[O-].[Na+]
reactant | kanamycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
reactant | benzylaminopurine | C(C1=CC=CC=C1)NC1=NC=C2NC=NC2=N1 | C12H11N5
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
product | 2-indolylbutyric acid | N1C(=CC2=CC=CC=C12)C(C(=O)O)CC | C12H13NO2
